US07820670B2
Step A: 3-Bromo-N-((5-methylpyrazin-2-yl)methyl)imidazo[1,2-b]pyridazin-6-amine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and (5-methylpyrazin-2-yl)methanamine according to general procedure 1 providing the intermediate (64 mg, 34%) as a yellow solid: Rf=0.67 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 8.69 (s, 1H), 8.47 (s, 1H), 7.60 (d, J=9.7 Hz, 1H), 7.39 (s, 1H), 6.79 (d, J=9.7 Hz, 1H), 4.66 (s, 2H), 2.53 (s, 3H); ES-MS: (M+H)=319, 321 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | (5-methylpyrazin-2-yl)methanamine | CC=1N=CC(=NC1)CN | C6H9N3
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 3-Bromo-N-((5-methylpyrazin-2-yl)methyl)imidazo[1,2-b]pyridazin-6-amine | BrC1=CN=C2N1N=C(C=C2)NCC2=NC=C(N=C2)C | C12H11BrN6
